US07582760B2
4-[3-Bromo-1-(3-fluoro-benzyl)-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (273 mg) was dissolved in 3 mL of 2-methoxyethanol and 85% phosphoric acid (575 mL) was added. The dark solution was heated to 140° C. and stirred for 16 h. The next day the mixture was made basic with 1.0 N NaOH and Et2O was added. The organic layer was separated, washed with brine, and dried over sodium sulfate. After filtering and removing solvent the crude material was taken up in 3 mL of THF and di-tert-butyldicarbonate (218 mg) was added. The mixture was stirred for 24 hours at room temperature, after which the mixture was partitioned between water and ethyl acetate. The organic layer was dried over sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography to provide 115 mg of 4-[1-(3-fluoro-benzyl)-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester, MS: 326 (M−Boc+H)+.

reactant | 4-[3-Bromo-1-(3-fluoro-benzyl)-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 273 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=CN(C2=CC=C1)CC1=CC(=CC=C1)F)Br | C24H27BrFN3O2
reactant | phosphoric acid | 575 mL | P(O)(O)(O)=O | H3O4P
reactant | NaOH | 1.0 N | [OH-].[Na+]
reactant | Et2O | CCOCC | C4H10O
solvent | 2-methoxyethanol | 3 mL | COCCO | C3H8O2
product | 4-[1-(3-fluoro-benzyl)-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 115 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2CCN(C2=CC=C1)CC1=CC(=CC=C1)F | C24H30FN3O2
